US04743600
The Preparation of 1-Allyl-5-(3-Aminopropoxy)-1-(1-Piperidinylmethyl)Benzocyclobutene
Tetrabutylammonium chloride (4.48 g) and 1-bromo-3-chloropropane (127.8 ml) are added to a stirred solution of 5-hydroxy-1-(1-piperidinylcarbonyl)benzocyclobutene (31.8 g) in methylene chloride (250 ml) and potassium hydroxide (18.85 g, 45% in H2O) which has been stirred vigorously under nitrogen for one hour. The reaction mixture is stirred at RT overnight, diluted with methylene chloride, extracted with H2O, sat'd aqueous NaCl and the organic layer dried over sodium sulfate. The solution is filtered, evaporated in vacuo and chromatographed (silica gel: ethyl acetate/hexane) yielding the desired product as an oil which is identified by NMR.

reactant | 1-bromo-3-chloropropane | 127.8 ml | BrCCCCl | C3H6BrCl
reactant | 5-hydroxy-1-(1-piperidinylcarbonyl)benzocyclobutene | 31.8 g | OC=1C=C2C(CC2C(=O)N2CCCCC2)=CC1 | C14H17NO2
reactant | potassium hydroxide | 18.85 g | [OH-].[K+]
catalyst | Tetrabutylammonium chloride | 4.48 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 1-Allyl-5-(3-Aminopropoxy)-1-(1-Piperidinylmethyl)Benzocyclobutene | C(C=C)C1(CC=2C1=CC(=CC2)OCCCN)CN2CCCCC2 | C20H30N2O
